US04360700
1-(3-Benzyloxyphenyl)-1-methylheptan-1-ol
To a slurry of 186 g. (7.65 mole) of magnesium in 3.5 l. of tetrahydrofuran was added 1.023 l. (7.29 mole) of 1-bromohexane over 2 hours. The resultant Grignard solution was allowed to cool to 25° C. A solution of 1.098 kg. (4.86 mole) of 3-benzyloxyacetophenone in 1 liter of tetrahydrofuran was added to the Grignard solution over a 3 hour period. The reaction temperature was maintained at 12°-18° C. with an ice bath. Upon completion of the addition the reaction was allowed to stir overnight at 25° C. A solution of 61.5 g. (3.42 mole) of water in 120 ml. tetrahydrofuran was added to the reaction over 15 minutes and, after stirring 20 minutes longer 0.440 l. (1.1 mole) of 2.5 M hexylmagnesium bromide in ether, was added. The reaction was stirred 20 hours longer and then quenched by slow addition to a mixture of 6 l. water and ice and 750 g. (14.2 mole) of ammonium chloride. The organic extract was removed and the aqueous extract was extracted with 1 liter of ether. The combined organic extract was washed with 1 liter of saturated sodium chloride, dried over magnesium sulfate and evaporated to yield 1.424 kg. (94%) of the title compound as an oil.

reactant | magnesium | 7.65 mole | [Mg] | Mg
reactant | 1-bromohexane | 7.29 mole | BrCCCCCC | C6H13Br
reactant | 3-benzyloxyacetophenone | 4.86 mole | CC(=O)C1=CC(=CC=C1)OCC2=CC=CC=C2 | C15H14O2
reactant | water | 3.42 mole | O | H2O
reactant | hexylmagnesium bromide | 1.1 mole, 2.5 M | C(CCCCC)[Mg]Br
reactant | ammonium chloride | 14.2 mole | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 1-(3-Benzyloxyphenyl)-1-methylheptan-1-ol | 94% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(CCCCCC)(O)C | C21H28O2
